US04165332
A solution of 0.30 g (5 mmol) of propanol and 0.395 g (2 mmol) of pyridine in 5 ml of carbon tetrachloride was added dropwise, with stirring to a solution of 1.41 g (5 mmol) of triflic anhydride in 10 ml of carbon tetrachloride at 0°. In 15 min the solution was filtered, washed with water, and dried over magnesium sulfate. Nmr analysis using chlorobenzene as a quantitative reference; showed an 86% yield of propyl triflate; proton nmr (CCl4) δ4.45 (t, 2H J=6 Hz, CH2O--), 1.83 (m, 2H, CH2CH2O--) and 1.08 ppm (t, 3H, J=6 Hz, CH3); fluorine nmr (CCl4) φ75.80 ppm (s); ir (CCl4) 2990 (m), 1460 (w), 1420 (vs), 1250 (s), 1220 (vs), 1155 (vs) and 950 cm-1 (vs).

reactant | propanol | 5 mmol, 0.30 g | C(CC)O | C3H8O
reactant | pyridine | 2 mmol, 0.395 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5 mmol, 1.41 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | propyl triflate | 86% yield | O(S(=O)(=O)C(F)(F)F)CCC | C4H7F3O3S
